*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.2
* < ILD_dielectric_const = 4.0
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_0 1 2 3 4 REF
C_C1 1 REF 0.6842719414322pf
C_C2 1 2 17.989490522582pf
C_C3 1 3 0.029519893455pf
C_C4 1 4 0.2469116508632pf
C_C5 2 REF 0.9155125456628pf
C_C6 2 3 0.1268998279153pf
C_C7 3 REF 0.6265115459184pf
C_C8 3 4 5.4936935975532pf
C_C9 4 REF 0.6302702945512pf
L_L1 3 5 1.2966811550399nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_1 1 2 3 4 REF
C_C1 1 REF 0.5838848978591pf
C_C2 1 2 18.406169865968pf
C_C3 1 3 0.0272671287393pf
C_C4 1 4 0.2513695157309pf
C_C5 2 REF 0.8226361639568pf
C_C6 2 3 0.1274791585216pf
C_C7 3 REF 0.6282427837993pf
C_C8 3 4 4.0581747106568pf
C_C9 4 REF 0.6294313772463pf
L_L1 3 5 1.297835093056nh
R_RL1 5 4 3.0316852644e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_2 1 2 3 4 REF
C_C1 1 REF 0.5042241211329pf
C_C2 1 2 18.868380112094pf
C_C3 1 3 0.024989014956pf
C_C4 1 4 0.2563197444991pf
C_C5 2 REF 0.7508745590716pf
C_C6 2 3 0.1281936533305pf
C_C7 3 REF 0.6298580662974pf
C_C8 3 4 3.054704535493pf
C_C9 4 REF 0.629033823635pf
L_L1 3 5 1.2987966248938nh
R_RL1 5 4 1.8674901185e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_3 1 2 3 4 REF
C_C1 1 REF 0.4300585648092pf
C_C2 1 2 19.505401383862pf
C_C3 1 3 0.0221058543861pf
C_C4 1 4 0.2632385991851pf
C_C5 2 REF 0.6872398996776pf
C_C6 2 3 0.1293205035418pf
C_C7 3 REF 0.6316726131447pf
C_C8 3 4 2.1902246450694pf
C_C9 4 REF 0.6289515408248pf
L_L1 3 5 1.2997700961729nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_4 1 2 3 4 REF
C_C1 1 REF 0.3692908071439pf
C_C2 1 2 20.334469536414pf
C_C3 1 3 0.0186438072724pf
C_C4 1 4 0.2724282551364pf
C_C5 2 REF 0.639987435869pf
C_C6 2 3 0.1310104235202pf
C_C7 3 REF 0.6335074706958pf
C_C8 3 4 1.4965082474465pf
C_C9 4 REF 0.6291799408804pf
L_L1 3 5 1.300743560127nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_5 1 2 3 4 REF
C_C1 1 REF 0.3308984114917pf
C_C2 1 2 21.241900114294pf
C_C3 1 3 0.0151245943891pf
C_C4 1 4 0.2826991622452pf
C_C5 2 REF 0.6163731683048pf
C_C6 2 3 0.1331226042714pf
C_C7 3 REF 0.6349719997581pf
C_C8 3 4 1.0367925669139pf
C_C9 4 REF 0.6295820255014pf
L_L1 3 5 1.3015300408941nh
R_RL1 5 4 -2.264393061e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_6 1 2 3 4 REF
C_C1 1 REF 0.3074255049735pf
C_C2 1 2 22.23338105489pf
C_C3 1 3 0.0114934751376pf
C_C4 1 4 0.2941004173722pf
C_C5 2 REF 0.609101893765pf
C_C6 2 3 0.1356870142881pf
C_C7 3 REF 0.6360928617023pf
C_C8 3 4 0.7214284152634pf
C_C9 4 REF 0.6300339701261pf
L_L1 3 5 1.3021761462121nh
R_RL1 5 4 -3.398055469e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_7 1 2 3 4 REF
C_C1 1 REF 0.2918016084865pf
C_C2 1 2 23.518376441778pf
C_C3 1 4 0.3090346434738pf
C_C4 2 REF 0.6144975030223pf
C_C5 2 3 0.1393231842282pf
C_C6 3 REF 0.6370184999556pf
C_C7 3 4 0.469358479318pf
C_C8 4 REF 0.6305402520209pf
L_L1 3 5 1.3027854510843nh
R_RL1 5 4 -4.478326764e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_8 1 2 3 4 REF
C_C1 1 REF 0.2819124412998pf
C_C2 1 2 25.16032442999pf
C_C3 1 4 0.3281986415768pf
C_C4 2 REF 0.6313256736477pf
C_C5 2 3 0.144320356689pf
C_C6 3 REF 0.637676638289pf
C_C7 3 4 0.2748693174609pf
C_C8 4 REF 0.6310389042553pf
L_L1 3 5 1.3033602289055nh
R_RL1 5 4 -5.443572218e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_9 1 2 3 4 REF
C_C1 1 REF 0.2743999064842pf
C_C2 1 2 27.305702019775pf
C_C3 1 4 0.3531759420039pf
C_C4 2 REF 0.6582330395251pf
C_C5 2 3 0.1512567890123pf
C_C6 3 REF 0.6380191841336pf
C_C7 3 4 0.13115651865pf
C_C8 4 REF 0.6314860700371pf
L_L1 1 5 81.740787447618nh
R_RL1 5 2 5.7765766556249
L_L2 3 6 1.3038454462731nh
R_RL2 6 4 -6.145733141e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_10 1 2 3 4 REF
C_C1 1 REF 0.2647338317891pf
C_C2 1 2 30.1228275358pf
C_C3 1 4 0.3857011753433pf
C_C4 2 REF 0.6928239948963pf
C_C5 2 3 0.1607702789146pf
C_C6 3 REF 0.6380596474389pf
C_C7 3 4 0.0268010182077pf
C_C8 4 REF 0.6318662391425pf
L_L1 1 5 51.158436162499nh
R_RL1 5 2 2.9416386381654
L_L2 3 6 1.304249939761nh
R_RL2 6 4 -6.50232987e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_11 1 2 3 4 REF
C_C1 1 REF 0.2475184141561pf
C_C2 1 2 33.978499518204pf
C_C3 1 4 0.4296574564689pf
C_C4 2 REF 0.7346344101506pf
C_C5 2 3 0.1742023968053pf
C_C6 3 REF 0.6378198407861pf
C_C7 4 REF 0.6321957843313pf
L_L1 1 5 31.643322399357nh
R_RL1 5 2 1.1208236605703
L_L2 3 6 1.3042445624616nh
R_RL2 6 4 -6.388483189e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_12 1 2 3 4 REF
C_C1 1 REF 0.2169094790509pf
C_C2 1 2 39.405080946459pf
C_C3 1 4 0.490700608067pf
C_C4 2 REF 0.7850951103461pf
C_C5 2 3 0.1934604934706pf
C_C6 3 REF 0.6373500806238pf
C_C7 4 REF 0.6325281555016pf
L_L1 1 5 19.09455632825nh
R_RL1 5 2 0.2270427079829
L_L2 3 6 1.3039612653986nh
R_RL2 6 4 -5.746621264e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_13 1 2 3 4 REF
C_C1 1 REF 0.1632789527329pf
C_C2 1 2 47.606491715777pf
C_C3 1 4 0.5818490670622pf
C_C4 2 REF 0.8515536773779pf
C_C5 2 3 0.222842298552pf
C_C6 3 REF 0.636673691919pf
C_C7 4 REF 0.6329704797136pf
L_L1 1 5 11.117463568406nh
R_RL1 5 2 -2.312244481e-3
L_L2 3 6 1.303451100147nh
R_RL2 6 4 -4.538499707e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_14 1 2 3 4 REF
C_C1 1 REF 0.0704738522757pf
C_C2 1 2 60.848942799553pf
C_C3 1 4 0.727793845715pf
C_C4 2 REF 0.9502487122054pf
C_C5 2 3 0.2704086604425pf
C_C6 3 REF 0.6357891403299pf
C_C7 4 REF 0.6337198320768pf
R_R1 1 2 486.90336054072
L_L1 1 5 6.1920819804754nh
R_RL1 5 2 0.1808542718827
L_L2 3 6 1.3026332164506nh
R_RL2 6 4 -2.765660247e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_15 1 2 3 4 REF
C_C1 1 2 85.30138194987pf
C_C2 1 4 0.9960065516335pf
C_C3 2 REF 1.1261825221473pf
C_C4 2 3 0.3581569446209pf
C_C5 3 REF 0.6345737998954pf
C_C6 4 REF 0.6352680633527pf
R_R1 1 2 202.20158656516
L_L1 1 5 3.0868457980205nh
R_RL1 5 2 -0.25606085967
L_L2 3 6 1.3011055128424nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_16 1 2 3 4 REF
C_C1 1 2 145.13126092431pf
C_C2 1 4 1.6510882944235pf
C_C3 2 REF 1.5540966433372pf
C_C4 2 3 0.5724349611021pf
C_C5 3 REF 0.6323942654714pf
C_C6 4 REF 0.6394876199883pf
R_R1 1 2 72.697696026847
L_L1 1 5 1.2365324387269nh
R_RL1 5 2 -0.150642985476
L_L2 1 6 54.883788827878nh
R_RL2 6 3 -0.183375358666
L_L3 1 7 54.154435613101nh
R_RL3 7 4 -0.184182894169
L_L4 2 8 54.98785828497nh
R_RL4 8 3 0.0156254359634
L_L5 2 9 54.261623695758nh
R_RL5 9 4 0.0152838029157
L_L6 3 10 1.2974865932819nh
R_RL6 10 4 1.9472446144e-5
Kn_K1 L_L1 L_L2 0.06873362032
Kn_K2 L_L1 L_L3 0.0690043733275
Kn_K3 L_L1 L_L4 -0.081289354364
Kn_K4 L_L1 L_L5 -0.082021896078
Kn_K5 L_L2 L_L3 0.988122731867
Kn_K6 L_L2 L_L4 0.9887461074896
Kn_K7 L_L2 L_L5 0.9767703882068
Kn_K8 L_L2 L_L6 -0.120092517192
Kn_K9 L_L3 L_L4 0.9768394825246
Kn_K10 L_L3 L_L5 0.9885950470447
Kn_K11 L_L3 L_L6 0.0338884615266
Kn_K12 L_L4 L_L5 0.9881454690643
Kn_K13 L_L4 L_L6 -0.119794213339
Kn_K14 L_L5 L_L6 0.0340408118278
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_17 1 2 3 4 REF
C_C1 1 2 390.87821691886pf
C_C2 1 4 4.3409503389654pf
C_C3 2 REF 3.315845363539pf
C_C4 2 3 1.4517263127479pf
C_C5 3 REF 0.6253949919748pf
C_C6 4 REF 0.6581865286666pf
R_R1 1 2 14.104763211404
L_L1 1 5 36.990215902732nh
R_RL1 5 REF -1.158153130848
L_L2 1 6 0.3114400318853nh
R_RL2 6 2 -0.062928962665
L_L3 1 7 16.312695625573nh
R_RL3 7 3 -0.056019428703
L_L4 1 8 15.63253260607nh
R_RL4 8 4 -0.057435545837
L_L5 2 9 36.772648525104nh
R_RL5 9 REF -1.27936456957
L_L6 2 10 16.374024801675nh
R_RL6 10 3 0.0026299737639
L_L7 2 11 15.698089096866nh
R_RL7 11 4 0.0025289093004
L_L8 3 12 52.938524527918nh
R_RL8 12 REF -1.249335045019
L_L9 3 13 1.2828699810565nh
R_RL9 13 4 3.9110176619e-5
L_L10 4 14 52.249614869964nh
R_RL10 14 REF -1.25165846636
Kn_K1 L_L1 L_L2 0.0779293598333
Kn_K2 L_L1 L_L5 0.99578215239
Kn_K3 L_L1 L_L8 0.8317889279591
Kn_K4 L_L1 L_L10 0.8371550496623
Kn_K5 L_L2 L_L3 0.0554820452893
Kn_K6 L_L2 L_L4 0.0557182636629
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.082536318942
Kn_K9 L_L2 L_L7 -0.085250461032
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9600592135017
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9904737140724
Kn_K15 L_L3 L_L7 0.9502377022145
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.21455736013
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9505752192724
Kn_K21 L_L4 L_L7 0.9900617315905
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0672930509839
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.831085395879
Kn_K26 L_L5 L_L10 0.8363983805215
Kn_K27 L_L6 L_L7 0.9602137303268
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.213693994363
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0676233922392
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1196330415134
Kn_K35 L_L8 L_L10 0.9878252292621
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_18 1 2 3 4 REF
C_C1 1 REF 35.604487774341pf
C_C2 1 3 17.323443167059pf
C_C3 2 4 53.326152446389pf
C_C4 3 REF 0.7594378647633pf
C_C5 4 REF 0.2417022199089pf
R_R1 1 REF -46.76104116079
R_R2 1 2 0.2858011091934
R_R3 1 3 -69.89759563858
R_R4 1 4 27.39572294001
R_R5 2 REF 46.657900190823
R_R6 2 3 69.911673350115
R_R7 2 4 -27.40219979753
L_L1 1 5 2.0489587858635nh
R_RL1 5 REF -4.73654602e-3
L_L2 1 6 0.0457669266889nh
R_RL2 6 2 -0.172381674297
L_L3 1 7 1.6129232487818nh
R_RL3 7 3 -0.061272736823
L_L4 1 8 1.0844387443959nh
R_RL4 8 4 -0.109479948425
L_L5 2 9 2.0695577484676nh
R_RL5 9 REF -0.176452168059
L_L6 2 10 1.6078161009313nh
R_RL6 10 3 -0.027946629442
L_L7 2 11 1.0728623003351nh
R_RL7 11 4 -7.050893111e-3
L_L8 3 12 3.6531174727851nh
R_RL8 12 REF -0.065325824423
L_L9 3 13 1.0481732234836nh
R_RL9 13 4 -6.877373434e-3
L_L10 4 14 3.1309147494729nh
R_RL10 14 REF -0.113508907902
Kn_K1 L_L1 L_L2 0.0410937338189
Kn_K2 L_L1 L_L5 0.9888998904261
Kn_K3 L_L1 L_L8 0.7473171268588
Kn_K4 L_L1 L_L10 0.8084772189687
Kn_K5 L_L2 L_L3 0.0936232688413
Kn_K6 L_L2 L_L4 0.1286988998953
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.074944705039
Kn_K9 L_L2 L_L7 -0.077148479001
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0147684404276
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.623492177983
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9857911708981
Kn_K16 L_L3 L_L7 0.6075100312869
Kn_K17 L_L3 L_L8 0.8422959178093
Kn_K18 L_L3 L_L9 -0.606295083697
Kn_K19 L_L3 L_L10 0.9112290307616
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.60276800432
Kn_K22 L_L4 L_L7 0.9787991923946
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2437217291799
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7482631908724
Kn_K27 L_L5 L_L10 0.810763679783
Kn_K28 L_L6 L_L7 0.6214903542639
Kn_K29 L_L6 L_L8 0.848936036926
Kn_K30 L_L6 L_L9 -0.609748933646
Kn_K31 L_L6 L_L10 0.9198454682717
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.2419828377382
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.401259464686
Kn_K36 L_L8 L_L10 0.8480101117698
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_19 1 2 3 4 REF
C_C1 1 2 3137.0592389801pf
C_C2 1 4 34.504445597341pf
C_C3 2 REF 23.238448548863pf
C_C4 2 3 11.173763602299pf
C_C5 3 REF 0.5532975198921pf
C_C6 4 REF 0.875320256825pf
R_R1 1 REF 53.353353304105
R_R2 1 2 -0.339248141762
R_R3 1 3 85.277422206839
R_R4 1 4 -32.17815690585
R_R5 2 REF -53.53564748481
R_R6 2 3 -85.30034941723
R_R7 2 4 32.185705106893
L_L1 1 5 2.6160310358152nh
R_RL1 5 REF -8.837305844e-3
L_L2 1 6 0.0172389106338nh
R_RL2 6 2 0.0156159400647
L_L3 1 7 1.91202879046nh
R_RL3 7 3 0.004943387557
L_L4 1 8 1.3405494475221nh
R_RL4 8 4 0.008443072821
L_L5 2 9 2.5958977294318nh
R_RL5 9 REF 0.0027972854599
L_L6 2 10 1.9172371668288nh
R_RL6 10 3 0.0029074389815
L_L7 2 11 1.3520035629578nh
R_RL7 11 4 0.001027979682
L_L8 3 12 4.504751468517nh
R_RL8 12 REF -6.356276983e-3
L_L9 3 13 1.0969530380304nh
R_RL9 13 4 5.1843117533e-4
L_L10 4 14 3.9272511720193nh
R_RL10 14 REF -3.569627394e-3
Kn_K1 L_L1 L_L2 0.0879918626779
Kn_K2 L_L1 L_L5 0.9966998489738
Kn_K3 L_L1 L_L8 0.7586596104256
Kn_K4 L_L1 L_L10 0.8115882264029
Kn_K5 L_L2 L_L3 0.0331323923726
Kn_K6 L_L2 L_L4 0.0190266208622
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.06173636214
Kn_K9 L_L2 L_L7 -0.093972878508
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.022709360991
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.6732163015576
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9954990369746
Kn_K16 L_L3 L_L7 0.6666172385562
Kn_K17 L_L3 L_L8 0.8874036199652
Kn_K18 L_L3 L_L9 -0.576019761556
Kn_K19 L_L3 L_L10 0.9493141853526
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.6704970732671
Kn_K22 L_L4 L_L7 0.9936065498701
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2166633970213
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7578906158753
Kn_K27 L_L5 L_L10 0.8097829345146
Kn_K28 L_L6 L_L7 0.6746220127848
Kn_K29 L_L6 L_L8 0.8818859006119
Kn_K30 L_L6 L_L9 -0.573083434242
Kn_K31 L_L6 L_L10 0.9422681024752
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.2183079756882
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.3766288789797
Kn_K36 L_L8 L_L10 0.871953454582
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_20 1 2 3 4 REF
C_C1 1 2 158.68447185563pf
C_C2 1 4 1.7955508271295pf
C_C3 2 REF 1.6507008884418pf
C_C4 2 3 0.6201329648609pf
C_C5 3 REF 0.6290750181265pf
C_C6 4 REF 0.6372573985365pf
R_R1 1 2 -50.62834999548
L_L1 1 5 76.058330383046nh
R_RL1 5 REF -6.514483117332
L_L2 1 6 0.2503537283808nh
R_RL2 6 2 0.02616163668
L_L3 1 7 23.645119561833nh
R_RL3 7 3 -0.011262481366
L_L4 1 8 22.920833946662nh
R_RL4 8 4 -0.010932037512
L_L5 2 9 75.219697609534nh
R_RL5 9 REF -6.543549822486
L_L6 2 10 23.837838036266nh
R_RL6 10 3 0.0124010808145
L_L7 2 11 23.121962561312nh
R_RL7 11 4 0.0116370687307
L_L8 3 12 99.218995698562nh
R_RL8 12 REF -6.620823487532
L_L9 3 13 1.2866427933615nh
R_RL9 13 4 8.4647328462e-5
L_L10 4 14 98.478945954076nh
R_RL10 14 REF -6.624811642359
Kn_K1 L_L1 L_L2 0.1247791651006
Kn_K2 L_L1 L_L5 0.9983604163743
Kn_K3 L_L1 L_L8 0.8727515964738
Kn_K4 L_L1 L_L10 0.8759336621948
Kn_K5 L_L2 L_L3 0.011844328023
Kn_K6 L_L2 L_L4 0.0102745898271
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.090684705016
Kn_K9 L_L2 L_L7 -0.093825609859
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9724870945535
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9947356966322
Kn_K15 L_L3 L_L7 0.9670157536387
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.182291685582
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9674951002026
Kn_K21 L_L4 L_L7 0.9945720756571
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0517771383664
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8716341507349
Kn_K26 L_L5 L_L10 0.8747626613249
Kn_K27 L_L6 L_L7 0.9727142194457
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.180794020531
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0523224123908
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.0896874060548
Kn_K35 L_L8 L_L10 0.9934988363791
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_21 1 2 3 4 REF
C_C1 1 REF 0.1666965524613pf
C_C2 1 2 49.292283313874pf
C_C3 1 4 0.5946965677974pf
C_C4 2 REF 0.8676634531375pf
C_C5 2 3 0.2290182231911pf
C_C6 3 REF 0.6310760921813pf
C_C7 4 REF 0.6275468200259pf
R_R1 1 2 -385.1572916321
L_L1 1 5 0.7113671121833nh
R_RL1 5 2 -0.263404687978
L_L2 1 6 80.152931458604nh
R_RL2 6 3 -0.246113142361
L_L3 1 7 79.225301610329nh
R_RL3 7 4 -0.242052814643
L_L4 2 8 81.236573480804nh
R_RL4 8 3 -0.92156534624
L_L5 2 9 80.315563701545nh
R_RL5 9 4 -0.913342147311
L_L6 3 10 1.2951245051906nh
R_RL6 10 4 3.5931994717e-5
Kn_K1 L_L1 L_L2 -0.024650581853
Kn_K2 L_L1 L_L3 -0.025235389505
Kn_K3 L_L1 L_L4 -0.118063044265
Kn_K4 L_L1 L_L5 -0.119175962959
Kn_K5 L_L2 L_L3 0.9918906941998
Kn_K6 L_L2 L_L4 0.9956146777041
Kn_K7 L_L2 L_L5 0.987455292669
Kn_K8 L_L2 L_L6 -0.109080220753
Kn_K9 L_L3 L_L4 0.9876143646617
Kn_K10 L_L3 L_L5 0.9955644072565
Kn_K11 L_L3 L_L6 0.0181398345864
Kn_K12 L_L4 L_L5 0.9919993621278
Kn_K13 L_L4 L_L6 -0.108027547856
Kn_K14 L_L5 L_L6 0.0183408386934
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_22 1 2 3 4 REF
C_C1 1 REF 0.3697850634215pf
C_C2 1 2 22.288432262703pf
C_C3 1 3 0.0305671823527pf
C_C4 1 4 0.2958378721433pf
C_C5 2 REF 0.6805204423398pf
C_C6 2 3 0.1306006917621pf
C_C7 3 REF 0.6311452756847pf
C_C8 4 REF 0.624618533976pf
L_L1 1 5 1.0140128980471nh
R_RL1 5 2 -8.95299361e-3
L_L2 3 6 1.2957391350034nh
R_RL2 6 4 1.4108150481e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_23 1 2 3 4 REF
C_C1 1 REF 0.4482663210838pf
C_C2 1 2 12.496322308205pf
C_C3 1 3 0.0715096154299pf
C_C4 1 4 0.1865224563604pf
C_C5 2 REF 0.6194011550131pf
C_C6 2 3 0.0927385490785pf
C_C7 3 REF 0.6304002320248pf
C_C8 4 REF 0.6227544381335pf
L_L1 1 5 1.4154967362786nh
R_RL1 5 2 -0.019222407935
L_L2 3 6 1.293578886054nh
R_RL2 6 4 -2.610790534e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_24 1 2 3 4 REF
C_C1 1 REF 0.4845319259895pf
C_C2 1 2 8.4236752048929pf
C_C3 1 3 0.0945099326652pf
C_C4 1 4 0.1397872700943pf
C_C5 2 REF 0.5992185543329pf
C_C6 2 3 0.0740931677311pf
C_C7 2 4 0.0397035754773pf
C_C8 3 REF 0.6287173703993pf
C_C9 4 REF 0.6203714320558pf
L_L1 1 5 1.7778689195728nh
R_RL1 5 2 -7.119503505e-3
L_L2 3 6 1.2909856112193nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_25 1 2 3 4 REF
C_C1 1 REF 0.5054060455976pf
C_C2 1 2 6.8769258471802pf
C_C3 1 3 0.1131175707302pf
C_C4 1 4 0.1172575801917pf
C_C5 2 REF 0.6000048498365pf
C_C6 2 3 0.0608043744087pf
C_C7 2 4 0.0678434714549pf
C_C8 3 REF 0.6266654082708pf
C_C9 4 REF 0.6177840915739pf
L_L1 1 5 1.9065472881325nh
R_RL1 5 2 -6.250297228e-4
L_L2 3 6 1.2877032196887nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_26 1 2 3 4 REF
C_C1 1 REF 0.5143458693362pf
C_C2 1 2 6.67679589166pf
C_C3 1 3 0.1265385540023pf
C_C4 1 4 0.1087717203016pf
C_C5 2 REF 0.608512621318pf
C_C6 2 3 0.0515809617606pf
C_C7 2 4 0.0807702934262pf
C_C8 3 REF 0.6250275645234pf
C_C9 4 REF 0.6157898150938pf
L_L1 1 5 1.9106967184136nh
R_RL1 5 2 5.4015890931e-5
L_L2 3 6 1.2862973597487nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param17_26

